US07612103B2
1.245 g of tetrahydropyridine in 50 ml of CH2Cl2 are treated with 1.5 mmol per mmol of tetrahydropyridine of HOBT, 2.17 g of N-BOC-(R)-valin and 1.5 mmol per mmol of tetrahydropyridine of EDC and the mixture obtained is stirred at RT. From the mixture obtained solvent is evaporated, the evaporation residue obtained is mixed with EE and the mixture obtained is extracted with 0.1N HCl and saturated aqueous NaHCO3 solution. The organic phase obtained is dried and solvent is evaporated. N—(N-BOC-(R)-valyl-1,2,5,6-tetrahydropyridine is obtained.

reactant | tetrahydropyridine | 1.245 g | N1CCCC=C1 | C5H9N
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-BOC-(R)-valin | 2.17 g | C(=O)(OC(C)(C)C)N[C@H](C(C)C)C(=O)O | C10H19NO4
reactant | EDC
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | N-BOC-(R)-valyl-1,2,5,6-tetrahydropyridine | C(=O)(OC(C)(C)C)N[C@H](C(C)C)C(=O)N1CC=CCC1 | C15H26N2O3
